US04179514
Preparation of 2-[[O-[N-methyl-N-(2-methyl-1-oxo-2-cyclopentanesulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one
To a solution of 3.93 g (0.0225 m) of 3,5,5-trimethyl-2-oximino-thiazolidin-4-one and 2.28 g (0.0225 m) of triethylamine in 75 ml of dioxane was added dropwise with stirring 5.0 g (0.0225 m) of N-methyl-N-(2-methyl-1-oxo-2-cyclopentanesulfenyl)carbamoyl chloride whilst maintaining the temperature between 10°-15° C. The reaction mixture was left standing for 16 hours at 5° C., and then diluted with ice water. The product was extracted in ethylacetate, dried and concentrated to yield 0.66 g of white solid, m.p. 119°-121° C.

reactant | 3,5,5-trimethyl-2-oximino-thiazolidin-4-one | 3.93 g | CN1C(SC(C1=O)(C)C)=NO | C6H10N2O2S
reactant | triethylamine | 2.28 g | C(C)N(CC)CC | C6H15N
reactant | N-methyl-N-(2-methyl-1-oxo-2-cyclopentanesulfenyl)carbamoyl chloride | 5.0 g | CN(C(=O)Cl)SC1(C(CCC1)=O)C | C8H12ClNO2S
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 2-[[O-[N-methyl-N-(2-methyl-1-oxo-2-cyclopentanesulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one | 0.66 g | CN(C(=O)ON=C1SC(C(N1C)=O)(C)C)SC1(C(CCC1)=O)C | C14H21N3O4S2
